US04182757
3.5 g of 1-(2-chloroethyl)-3-n-pentyl-3-D-galactopyranosylurea are dissolved in a mixture of 80 ml of tetrahydrofuran and 80 ml of methylene chloride, and 15 g of sodium carbonate anhydrate are added thereto. 5 g of nitrogen tetroxide gas are introduced into the mixture for 10 minutes under ice-cooling. The mixture is treated in the same manner as described in Example 2. 2.7 g of 1-(2-chloroethyl)-1-nitroso-3-n-pentyl-3-D-galactopyranosylurea are thereby obtained as yellow caramel.

reactant | 1-(2-chloroethyl)-3-n-pentyl-3-D-galactopyranosylurea | 3.5 g | ClCCNC(=O)N(C1[C@H](O)[C@@H](O)[C@@H](O)[C@H](O1)CO)CCCCC | C14H27ClN2O6
reactant | sodium carbonate | 15 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | nitrogen tetroxide | 5 g | [N+](=O)([N+](=O)[O-])[O-] | N2O4
solvent | tetrahydrofuran | 80 ml | O1CCCC1 | C4H8O
solvent | methylene chloride | 80 ml | C(Cl)Cl | CH2Cl2
product | 1-(2-chloroethyl)-1-nitroso-3-n-pentyl-3-D-galactopyranosylurea | 2.7 g | ClCCN(C(=O)N(C1[C@H](O)[C@@H](O)[C@@H](O)[C@H](O1)CO)CCCCC)N=O | C14H26ClN3O7
